US05089514
G. 2-Methoxy-3-[2-((5-methyl-2-phenyl-4-oxazolyl)-methyl)benzofuran-5-yl]propanoic acid
A mixture of 2-methoxy-3-[2-((5-methyl-2-phenyl-4-oxazolyl)methyl)benzofuran-5-yl]propanenitrile (0.64 g, 1.7 mmol), ethanol (30 ml) and 6N sodium hydroxide (10 ml) was heated to reflux for 3 hours. Water (30 ml) was added and the solution was acidified with concentrated hydrochloric acid (6 ml), then extracted with ethyl acetate (2 ×). The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated. The product was recrystallized from ethyl acetate/hexanes and obtained as a white solid (0.47 g, mp 159°-160.5° C.).

reactant | 2-methoxy-3-[2-((5-methyl-2-phenyl-4-oxazolyl)methyl)benzofuran-5-yl]propanenitrile | 1.7 mmol, 0.64 g | COC(C#N)CC=1C=CC2=C(C=C(O2)CC=2N=C(OC2C)C2=CC=CC=C2)C1 | C23H20N2O3
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 6N, 10 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6 ml | Cl | ClH
reactant | Water | 30 ml | O | H2O
product | 2-Methoxy-3-[2-((5-methyl-2-phenyl-4-oxazolyl)-methyl)benzofuran-5-yl]propanoic acid | 0.47 g | COC(C(=O)O)CC=1C=CC2=C(C=C(O2)CC=2N=C(OC2C)C2=CC=CC=C2)C1 | C23H21NO5
